US07119102B2
2-Phenyl-1H-benzoimidazole-5-carboxylic acid methyl ester (1.178 g, 4.67 mmol) was dissolved in 20 mL THF. Cooled to 0° C. and then added LAH (886 mg, 23.35 mmol). The mixture was heated to 50° C. overnight. Added 0.9 mL water, 0.9 mL 15% NaOH aqu. solution then 3 mL water. Stirred at RT for 30 mins. Filtered through celite and washed the celite with ethyl acetate. Washed the filtrate with brine. Dried over Na2SO4. Filtered and removed solvent in vacuo. Obtained 783 mg (74.8%) of (2-Phenyl-1H-benzoimidazol-5-yl)-methanol as an off white foam.

reactant | 2-Phenyl-1H-benzoimidazole-5-carboxylic acid methyl ester | 4.67 mmol, 1.178 g | COC(=O)C1=CC2=C(NC(=N2)C2=CC=CC=C2)C=C1 | C15H12N2O2
reactant | LAH | 23.35 mmol, 886 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.9 mL | O | H2O
reactant | NaOH | 0.9 mL | [OH-].[Na+]
reactant | water | 3 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-Phenyl-1H-benzoimidazol-5-yl)-methanol | 783 mg, 74.8% | C1(=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)CO | C14H12N2O
